US06172057B2
2-(Octane-1-sulfonyl)-3-[4-(2-piperidin-yl-ethoxy)-phenyl]-propionic acid was prepared according to the general method as outlined in example 9. Starting from 2-(octane-1-sulfonyl)-3-[4-(2-piperidin-yl-ethoxy)-phenyl]-propionic acid ethyl ester (8.9g, 18 mmol), ethanol (25 mL) and 10 N sodium hydroxide (25 mL). Yield 6.0g (72%).

reactant | 2-(octane-1-sulfonyl)-3-[4-(2-piperidin-yl-ethoxy)-phenyl]-propionic acid ethyl ester | 18 mmol, 8.9g | C(C)OC(C(CC1=CC=C(C=C1)OCCN1CCCCC1)S(=O)(=O)CCCCCCCC)=O | C26H43NO5S
reactant | sodium hydroxide | 10 N, 25 mL | [OH-].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-(Octane-1-sulfonyl)-3-[4-(2-piperidin-yl-ethoxy)-phenyl]-propionic acid | C(CCCCCCC)S(=O)(=O)C(C(=O)O)CC1=CC=C(C=C1)OCCN1CCCCC1 | C24H39NO5S
